US08859574B2
To a solution of 5-chloro-N2-(2-fluoro-5-methyl-4-(piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine (20 mg, 0.048 mmol) in acetonitrile (0.5 mL) was added Cs2CO3 (31 mg, 0.096 mmol) and chloroacetonitrile (7 mg, 0.096 mmol). The resulting mixture was stirred at room temperature for 14 h before it was treated with saturated aqueous NH4Cl (1 mL) and extracted with EtOAc (3×2 mL). The organic layers were combined, concentrated, and the residue was purified by preparative RP-HPLC to provide 2-(4-(4-(5-chloro-4-(5-methyl-1H-pyrazol-3-ylamino)pyrimidin-2-ylamino)-5-fluoro-2-methylphenyl)piperidin-1-yl)acetonitrile; ESMS m/z 455.2 (M+H+).

reactant | 5-chloro-N2-(2-fluoro-5-methyl-4-(piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine | 0.048 mmol, 20 mg | ClC=1C(=NC(=NC1)NC1=C(C=C(C(=C1)C)C1CCNCC1)F)NC1=NNC(=C1)C | C20H23ClFN7
reactant | Cs2CO3 | 0.096 mmol, 31 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | chloroacetonitrile | 0.096 mmol, 7 mg | ClCC#N | C2H2ClN
reactant | NH4Cl | 1 mL | [NH4+].[Cl-]
solvent | acetonitrile | 0.5 mL | C(C)#N | C2H3N
product | 2-(4-(4-(5-chloro-4-(5-methyl-1H-pyrazol-3-ylamino)pyrimidin-2-ylamino)-5-fluoro-2-methylphenyl)piperidin-1-yl)acetonitrile | ClC=1C(=NC(=NC1)NC1=CC(=C(C=C1F)C1CCN(CC1)CC#N)C)NC1=NNC(=C1)C | C22H24ClFN8
